US06884868B1
To a solution of 4-methoxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester (6.5 g) in ethyl acetate (65 ml) was added dropwise 4N-HCl/ethyl acetate (56 ml) at ambient temperature. The reaction mixture was stirred for 1.5 hours at ambient temperature. To the reaction mixture was added diisopropyl ether. The precipitate was collected by filtration to give powder. The powder was adjusted to pH 11 with 1N-NaOH, and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-methoxy-4-phenylpiperidine (3.47 g).

reactant | 4-methoxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | 6.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC | C17H25NO3
reactant | HCl ethyl acetate | 56 ml | Cl.C(C)(=O)OCC
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | NaOH | [OH-].[Na+]
solvent | ethyl acetate | 65 ml | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-4-phenylpiperidine | 3.47 g | COC1(CCNCC1)C1=CC=CC=C1 | C12H17NO
